US08729263B2
Concentrated hydrochloric acid (3 mL) was added to a solution of 2-(3-(benzyloxy)-4-bromo-5-((2-(trimethylsilyl)ethoxy)methoxy)phenyl)-5-methyloxazole (0.60 g, 1.22 mmol) in THF (8 mL) and stirred at room temperature for three hours. The solution was diluted with water and extracted with 1:1 ethyl acetate/diethyl ether (4×). The extracts were washed with saturated sodium bicarbonate, brine, dried over magnesium sulfate and concentrated to a solid. The solid was triturated with heptane (2×) and dried under vacuum to provide 3-(benzyloxy)-2-bromo-5-(5-methyloxazol-2-yl)phenol as an off white solid (412 mg). MS (M+1)=360.2. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.52 (d, J=7.07 Hz, 2H), 7.36-7.43 (m, 2H), 7.28-7.35 (m, 2H), 7.23 (d, J=1.52 Hz, 1H), 6.86 (d, J=1.52 Hz, 1H), 5.24 (s, 2H), 4.21 (q, J=6.74 Hz, 2H), 2.41 (d, J=1.01 Hz, 3H), 1.50 (t, J=6.82 Hz, 3H).

reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | 2-(3-(benzyloxy)-4-bromo-5-((2-(trimethylsilyl)ethoxy)methoxy)phenyl)-5-methyloxazole | 1.22 mmol, 0.60 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1Br)OCOCC[Si](C)(C)C)C=1OC(=CN1)C | C23H28BrNO4Si
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(benzyloxy)-2-bromo-5-(5-methyloxazol-2-yl)phenol | C(C1=CC=CC=C1)OC=1C(=C(C=C(C1)C=1OC(=CN1)C)O)Br | C17H14BrNO3
